US09326516B2
1-(2-Hydroxy-1-(p-tolyl)ethyl)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (C18)
The title compound was prepared with 2-amino-2-(p-tolyl)ethanol and 3-(4-isothiocyanatophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole and isolated as a white solid (1.39 g, 99%): 1H NMR (300 MHz, CDCl3) δ 8.06 (s, 1H), 7.66 (d, J=8.4 Hz, 2H), 7.31 (d, J=8.7 Hz, 2H), 7.21 (d, J=8.6 Hz, 2H), 6.76 (t, J=8.5 Hz, 2H), 6.63-6.49 (m, 7H), 5.12-5.00 (m, 1H), 3.56-3.08 (m, 2H), 1.73 (s, 3H); ESIMS m/z 498 ([M+H]+).

reactant | 2-amino-2-(p-tolyl)ethanol | NC(CO)C1=CC=C(C=C1)C | C9H13NO
reactant | 3-(4-isothiocyanatophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C16H9F3N4S
product | 1-(2-Hydroxy-1-(p-tolyl)ethyl)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | OCC(C1=CC=C(C=C1)C)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C25H22F3N5OS
